US07618979B2
Step 6 methyl [8-hydroxy-1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-yl]acetate
A mixture of 1-(methylthio)-6,7-dihydro-8H-pyrido[3,4-b]pyrrolizin-8-one (0.15 g, 0.68 mmol), methyl bromoacetate (0.34 mL), Zn—Cu (0.226 g) in THF (3.0 mL) was sonicated for 2 h. The mixture was then heated at 60° C. for 5 min. until completion of the reaction. The reaction mixture was partitioned between EtOAc and NH4Cl. The organic phase was separated, dried over Na2SO4, filtered and evaporated under reduced pressure to provide the title compound. The compound was purified by flash chromatography.

reactant | 1-(methylthio)-6,7-dihydro-8H-pyrido[3,4-b]pyrrolizin-8-one | 0.68 mmol, 0.15 g | CSC1=NC=CC2=C1C=C1C(CCN21)=O | C11H10N2OS
reactant | methyl bromoacetate | 0.34 mL | BrCC(=O)OC | C3H5BrO2
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | methyl [8-hydroxy-1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-yl]acetate | OC1(CCN2C3=C(C=C12)C(=NC=C3)SC)CC(=O)OC | C14H16N2O3S
